US05200109
18 ml of ethanol was added to 10.0 g of ethyl 4-decylbenzoate, and then 20 g of 80%-hydrazine hydrate was added thereto, followed by refluxing for 16 hours. After the reaction, the reaction mixture was poured into 200 ml of iced water to precipitate a crystal. The crystal was recovered by filtration and recrystallized from ethanol to obtain 6.93 g of 4-decylbenzohydrazide (Yield: 72.9%).

reactant | ethanol | 18 ml | C(C)O | C2H6O
reactant | ethyl 4-decylbenzoate | 10.0 g | C(CCCCCCCCC)C1=CC=C(C(=O)OCC)C=C1 | C19H30O2
reactant | hydrazine hydrate | O.NN
solvent | water | 200 ml | O | H2O
product | 4-decylbenzohydrazide | 6.93 g, Yield: 72.9% | C(CCCCCCCCC)C1=CC=C(C(=O)NN)C=C1 | C17H28N2O
